US05994368
To a solution of 3-[N-[4-(methylcarbamoyl)-cinnamoylglycyl]-N-methylamino]-2,6-dichlorobenzyl bromide (60 mg) and 4-ethoxy-8-hydroxy-2-methylquinoline (24.9 mg) in dimethylformamide (0.6 ml) was added potassium carbonate (48.5 mg), and the mixture was stirred for 5 hours at ambient temperature. Water was added thereto, and the mixture was extracted with dichloromethane. The extract was washed with water, dried over magnesium sulfate and concentrated. The residue was purified by preparative thin-layer chromatography (dichloromethane:methanol=15:1, V/V) to give 8-[2,6-dichloro-3-[N-methyl-N-[4-(methylcarbamoyl)cinnamoylglycyl]-amino]benzyloxy]-4-ethoxy-2-methylquinoline (67 mg) as an amorphous powder.

reactant | 3-[N-[4-(methylcarbamoyl)-cinnamoylglycyl]-N-methylamino]-2,6-dichlorobenzyl bromide | 60 mg | CNC(=O)C1=CC=C(C=CC(=O)NCC(=O)N(C)C=2C(=C(CBr)C(=CC2)Cl)Cl)C=C1 | C21H20BrCl2N3O3
reactant | 4-ethoxy-8-hydroxy-2-methylquinoline | 24.9 mg | C(C)OC1=CC(=NC2=C(C=CC=C12)O)C | C12H13NO2
reactant | potassium carbonate | 48.5 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | dimethylformamide | 0.6 ml | CN(C=O)C | C3H7NO
product | 8-[2,6-dichloro-3-[N-methyl-N-[4-(methylcarbamoyl)cinnamoylglycyl]-amino]benzyloxy]-4-ethoxy-2-methylquinoline | 67 mg | ClC1=C(COC=2C=CC=C3C(=CC(=NC23)C)OCC)C(=CC=C1N(C(CNC(C=CC1=CC=C(C=C1)C(NC)=O)=O)=O)C)Cl | C33H32Cl2N4O5
